US09145433B2
Step E: 6-(2-(4-Fluoro-3-methylphenyl)pyridin-3-yl)-1-(2-morpholino ethyl)-1H-benzo[d]imidazole
The above residue containing 5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-N-(2-morpholinoethyl)-2-nitrobenzenamine was added DMA (1 mL), triethyl orthoformate (250 uL) and treated with one drop of concentrated HCl. The homogeneous solution was heated at 65° C. for 15 hours in a sealed vial. The reaction was cooled and the volatiles were removed with a stream of nitrogen gas. The residue was triturated with aq. NaHCO3, resulting solid collected by filtration and purified by HPLC to yield 25 mg of the desired product 6-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-1-(2-morpholino ethyl)-1H-benzo[d]imidazole. 1H NMR (DMSO-d6): δ 8.58 (dd, J=4.7, 1.6 Hz, 1H), 8.15 (s, 1H), 7.84 (dd, J=7.8, 1.6 Hz, 1H), 7.56 (d, J=8.3 Hz, 1H), 7.43 (dd, J=7.8, 4.7 Hz, 1H), 7.28 (d, J=4.8 Hz, 2H), 7.05 (dd, J=8.3, 1.5 Hz, 1H), 7.03-6.75 (m, 2H), 4.19 (t, J=6.4 Hz, 2H), 3.55-3.36 (m, 4H), 2.44-2.15 (m, 6H), 2.06 (s, 3H). MS (m/e): 417 (MH+).

reactant | 5-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)-N-(2-morpholinoethyl)-2-nitrobenzenamine | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=CC(=C(C1)NCCN1CCOCC1)[N+](=O)[O-])C | C24H25FN4O3
reactant | triethyl orthoformate | 250 uL | C(OCC)(OCC)OCC | C7H16O3
catalyst | HCl | one drop | Cl | ClH
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
product | 6-(2-(4-Fluoro-3-methylphenyl)pyridin-3-yl)-1-(2-morpholino ethyl)-1H-benzo[d]imidazole | 25 mg | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=CC2=C(N(C=N2)CCN2CCOCC2)C1)C | C25H25FN4O
